US07049325B2
A solution of 2-methanesulfonyl-6-methoxy-quinoline (237 mg, 1 mole ) in CH2Cl2 was treated with 2 mmoles Br2 and stirred for 1 day. The mixture was poured into a solution of NaHCO3 and sodium thiosulfate. The product was extracted with CH2Cl2. The organic layer was dried and evaporated to afford 5-bromo-2-methanesulfonyl-6-methoxy-quinoline, 287 mg (91%), as white crystals.

reactant | 2-methanesulfonyl-6-methoxy-quinoline | 1 mole, 237 mg | CS(=O)(=O)C1=NC2=CC=C(C=C2C=C1)OC | C11H11NO3S
reactant | Br2 | 2 mmoles | BrBr | Br2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-methanesulfonyl-6-methoxy-quinoline | BrC1=C2C=CC(=NC2=CC=C1OC)S(=O)(=O)C | C11H10BrNO3S
